US04440683
To a solution of silver salt of 2,2,2-trichloroethyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-hydroxyethylidene)acetate (695 mg) in hexamethyl phoshorotriamide (8 ml) is added a mixture of cyclopropylmethyl chloroformate (480 mg) and triethylamine (180 mg), and the mixture is stirred for 1 hour. The reaction mixture is poured into ice water, and is extracted with benzene. The extract solution is washed with water, dried, and evaporated in leave residue. Purification of the residue by chromatography over silica gel to give 2,2,2-trichloroethyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-cyclopropylmethoxycarbonyloxyethylidene)acetate (650 mg). Yield: 64.4%.

reactant | 2,2,2-trichloroethyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-hydroxyethylidene)acetate | 695 mg | SC1C(C(N1C(C(=O)OCC(Cl)(Cl)Cl)=C(C)O)=O)NC(COC1=CC=CC=C1)=O | C17H17Cl3N2O6S
reactant | cyclopropylmethyl chloroformate | 480 mg | ClC(=O)OCC1CC1 | C5H7ClO2
catalyst | silver | [Ag] | Ag
solvent | triethylamine | 180 mg | C(C)N(CC)CC | C6H15N
product | 2,2,2-trichloroethyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-cyclopropylmethoxycarbonyloxyethylidene)acetate | 650 mg, Yield: 64.4% | C1(CC1)COC(=O)SC1C(C(N1C(C(=O)OCC(Cl)(Cl)Cl)=C(C)OC(=O)OCC1CC1)=O)NC(COC1=CC=CC=C1)=O | C27H29Cl3N2O10S
